US07214673B2
(S)-1,4-Dibenzyl-2-(2-pridin-4-yl-ethyl)-piperazine
Prepared by the method in Example 128, using 9-borabicyclo[3.3.1]nonane (71.4 mL, 35.7 mmol, 0.5 M in THF), (S)-1,4-dibenzyl-2-vinyl-piperazine (2.61 g, 8.92 mmol), triphenylphosphine (749 mg, 2.86 mmol), tetrakis(triphenylphosphine)palladium(0) (413 mg, 0.36 mmol), 4-bromopyridine hydrochloride (2.60 g, 13.4 mmol) and 3M NaOH (10.4 mL, 31.2 mmol) to give the title compound (1.87 g, 56%): mp 96–98° C.; mass spectrum (ion spray): m/z=372 (M+1). Analysis calculated for C25H29N3: C, 80.82; H, 7.87; N, 11.31. Found: C, 80.80; H, 7.99; N, 11.18.

reactant | 9-borabicyclo[3.3.1]nonane | 35.7 mmol, 0.5 M, 71.4 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | (S)-1,4-dibenzyl-2-vinyl-piperazine | 8.92 mmol, 2.61 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
reactant | triphenylphosphine | 2.86 mmol, 749 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromopyridine hydrochloride | 13.4 mmol, 2.60 g | Cl.BrC1=CC=NC=C1
reactant | NaOH | 31.2 mmol, 3M, 10.4 mL | [OH-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.36 mmol, 413 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-1,4-Dibenzyl-2-(2-pridin-4-yl-ethyl)-piperazine | 1.87 g, 56% | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=CC=NC=C1 | C25H29N3
